US07863332B2
6.5 g (19.5 mmol, 3 eq) of methyl triphenylphosphoranylideneacetate are added to a solution of 1.0 g (6.5 mmol, 1 eq) of vanillin in 15 ml of toluene. The reaction mixture is stirred for 1 hour at 90° C. The solvent is evaporated off and the residual oil is then chromatographed on silica gel (8/2 heptane/ethyl acetate). 1.12 g of methyl (E)-3-(4-hydroxy-3-methoxyphenyl)acrylate are obtained in oil form. Yield=83%

reactant | methyl triphenylphosphoranylideneacetate | 19.5 mmol, 6.5 g, 3 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
reactant | vanillin | 6.5 mmol, 1.0 g, 1 eq | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | methyl (E)-3-(4-hydroxy-3-methoxyphenyl)acrylate | 1.12 g, Yield=83% | OC1=C(C=C(C=C1)/C=C/C(=O)OC)OC | C11H12O4
